US07842685B2
A solution of potassium tert-butoxide (0.206 g, 1.83 mmol) and trimethylsulfoxonium iodide (0.404 g, 1.83 mmol) in 5 mL DMSO under nitrogen was added 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)phenyl)vinyl)-thiazolo[5,4-b]pyridine (0.385 g, 0.734 mmol) as a solution in 6 mL THF (min volume to dissolve) slowly dropwise via addition funnel over 1 h. The cloudy reaction mixture was allowed to stir for 4 h and was quenched with ice. The reaction mixture was partitioned between water and EtOAc. The organic layer was washed with water, brine, dried, and concentrated in vacuo to give an oil/solid which was purified by silica gel chromatography 0-100% EA/hexanes to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)phenyl)cyclopropyl)thiazolo[5,4-b]pyridine as a yellow solid. The aqueous suspension from the extraction was further extracted with DCM, the combined org extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to give additional 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)phenyl)-cyclopropyl)thiazolo[5,4-b]pyridine. MS (ESI) m/z: calculated: 538.2; Observed: 539.1 (M++1).

reactant | potassium tert-butoxide | 1.83 mmol, 0.206 g | CC(C)([O-])C.[K+]
reactant | trimethylsulfoxonium iodide | 1.83 mmol, 0.404 g | [I-].C[S+](=O)(C)C
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)phenyl)vinyl)-thiazolo[5,4-b]pyridine | 0.734 mmol, 0.385 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1=CC=C(C=C1)OCC1=CC=CC=C1)F | C31H25FN2O3S
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)phenyl)cyclopropyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)F | C32H27FN2O3S
